US06498170B2
N-[2-Benzyloxy-5-(2-dibenzylamino-1-oxo-ethyl)-phenyl]-methanesulfonamide:
N-[2-Benzyloxy-5-(2-chloro-1-oxo-ethyl)-phenyl]-methanesulfonamide (EP 0 659 737) (17.0 g, 42.8 mmol) was dissolved in 200 mL of dimethylformamide and treated with dibenzylamine (22.0 g, 110 mmol). The mixture was stirred at room temperature overnight and then the solvent was removed. The residue was purified by silica gel chromatography using 20-50% ethyl acetate/hexanes as elute to give the title compound as a white solid; 1H NMR (300 MHz, CDCl3) δ 2.94 (s, 3 H), 3.77 (s, 2 H), 3.82 (s, 2 H), 5.16 (s, 2 H), 6.75 (brs, 1 H), 6.96 (d, J=8.7 Hz, 1 H), 7.20-7.50 (m, 15 H), 7.67 (dd, J=8.7, 2.1 Hz, 1 H), 8.10 (d, J=2.1 Hz, 1 H); MS (ES) m/z: 515.2 (M++H); HRMS Calcd. for C30H30N2O4S(M+): 514.1926. Found: 514.1927.

reactant | N-[2-Benzyloxy-5-(2-chloro-1-oxo-ethyl)-phenyl]-methanesulfonamide | 42.8 mmol, 17.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CCl)=O)NS(=O)(=O)C | C16H16ClNO4S
reactant | dibenzylamine | 110 mmol, 22.0 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | N-[2-Benzyloxy-5-(2-dibenzylamino-1-oxo-ethyl)-phenyl]-methanesulfonamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)NS(=O)(=O)C | C30H30N2O4S
